US05641430
Preparation of trans-4-(3,4,5-trifluorophenyloxymethyl)-1-(4-fluoropentyl)-1-silacyclohexane
The general procedure of Example 9 was repeated using 3,4,5-trifluorophenol and 4-bromomethyl-1-(4-fluoropentyl)-1-phenyl-1-silacyclohexane, thereby obtaining the intended compound.

reactant | 3,4,5-trifluorophenol | FC=1C=C(C=C(C1F)F)O | C6H3F3O
reactant | 4-bromomethyl-1-(4-fluoropentyl)-1-phenyl-1-silacyclohexane | BrCC1CC[Si](CC1)(C1=CC=CC=C1)CCCC(C)F | C17H26BrFSi
product | trans-4-(3,4,5-trifluorophenyloxymethyl)-1-(4-fluoropentyl)-1-silacyclohexane | FC=1C=C(C=C(C1F)F)OC[C@@H]1CC[Si@H](CC1)CCCC(C)F | C17H24F4OSi
